US08664233B2
1.0 g (3.2 mmol) 6-bromo-2,4-dichloro-5H-pyrimido[5,4-b]indole was suspended in 5 ml absolute ethanol and mixed with 6 ml (6.4 mmol) 1M sodium ethylate solution (EtOH). The mixture was refluxed for 15 h. Having cooled down to room temperature, the solvent was concentrated and water was added. The resulting precipitate was sucked off and washed with water. 0.9 g (86%) 6-bromo-2-chloro-4-ethoxy-5H-pyrimido[5,4-b]indole was obtained. ESI-MS [m/z]: 324, 326 [M−H]−

reactant | 6-bromo-2,4-dichloro-5H-pyrimido[5,4-b]indole | 3.2 mmol, 1.0 g | BrC1=CC=CC=2C3=C(NC12)C(=NC(=N3)Cl)Cl | C10H4BrCl2N3
reactant | sodium ethylate solution | 6.4 mmol, 1M, 6 ml | CC[O-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-bromo-2-chloro-4-ethoxy-5H-pyrimido[5,4-b]indole | 0.9 g, 86% | BrC1=CC=CC=2C3=C(NC12)C(=NC(=N3)Cl)OCC | C12H9BrClN3O
